US04131611
A 92.3 g portion of m-anisidine is dissolved in 225 ml of concentrated hydrochloric acid, 150 ml of water and 150 g of ice and cooled to 0° C. This mixture is diazotized carefully with vigorous stirring at 0°-5° C. with 52.5 g of sodium nitrite in 120 ml of water. This mixture is then added to 83.25 g of N-methylmaleimide in 225 ml of acetone at 0° C. The pH is adjusted to 3.0 and 25.5 g of cuprous chloride dihydrate is added in one portion followed by 200 ml of acetone, with stirring. Evaporation of the acetone and decantation of the aqueous layer leaves a black residue which is boiled with one liter of benzene, dried over magnesium sulfate and filtered through a Buchner funnel containing 50 g of activated magnesium silicate. The residue is boiled with one liter of benzene and filtered through activated magnesium silicate. The dark filtrate is evaporated under reduced pressure and then heated for 10 minutes with 100 ml of 2,6-lutidine to insure dehydrochlorination. This solution is combined with 500 ml of water and 400 ml of pyridine and filtered. The crystalline cake is pressed free of dark oil and then boiled with 500 ml of 90% ethanol. This is cooled and filtered giving 2-(m-methoxyphenyl)-N-methylmaleimide as orange crystals, m.p. 138°-146° C.

reactant | m-anisidine | COC1=CC(=CC=C1)N | C7H9NO
reactant | sodium nitrite | 52.5 g | N(=O)[O-].[Na+]
reactant | N-methylmaleimide | 83.25 g | CN1C(C=CC1=O)=O | C5H5NO2
reactant | benzene | one liter | C1=CC=CC=C1 | C6H6
solvent | hydrochloric acid | 225 ml | Cl | ClH
solvent | water | 120 ml | O | H2O
solvent | acetone | 225 ml | CC(=O)C | C3H6O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | water | 150 ml | O | H2O
product | 2-(m-methoxyphenyl)-N-methylmaleimide | COC=1C=C(C=CC1)C=1C(=O)N(C(C1)=O)C | C12H11NO3
